US07750003B2
1-[4-[4-(Anilinomethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea
1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea (105 mg, 0.21 mmol) dissolved in a solution of DCM (5 mL) was added to aniline (0.097 mL, 1.06 mmol) and stirred at RT for 18 h. The mixture was vacuumed to dryness and purified by prep-HPLC (basic) to give the desired material (41 mg) as a white solid.

reactant | 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea | 0.21 mmol, 105 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)COS(=O)(=O)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H27N5O5S
reactant | aniline | 1.06 mmol, 0.097 mL | NC1=CC=CC=C1 | C6H7N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-[4-(Anilinomethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea | 41 mg | N(C1=CC=CC=C1)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C29H30N6O2
